US07199239B2
2-Methyl-2-{2-methyl-4-[([4-(trifluoromethyl)benzyl]{6-[4-(trifluoromethyl)phenyl]pyridin-2-yl}amino)methyl]phenoxy}propanoic acid
To a solution of ethyl 2-methyl-2-{2-methyl-4-[([4-(trifluoromethyl)benzyl]{6-[4-(trifluoromethyl)phenyl]pyridin-2-yl}amino)methyl]phenoxy}propanoate (0.07 g, 0.11 mmol) in tetrahydrofuran (2 mL) and methanol (2 mL) was added 2M aq. NaOH (1 mL). The resulting solution was stirred at room temperature for 20 h then concentrated in vacuo. The residue was acidified with 2M HCl aq. and extracted with CH2Cl2 (2×30 mL). The combined organic extracts were dried (Na2SO4), filtered and evaporated to afford the title compound as a colourless oil (60 mg).

reactant | ethyl 2-methyl-2-{2-methyl-4-[([4-(trifluoromethyl)benzyl]{6-[4-(trifluoromethyl)phenyl]pyridin-2-yl}amino)methyl]phenoxy}propanoate | 0.11 mmol, 0.07 g | CC(C(=O)OCC)(C)OC1=C(C=C(C=C1)CN(C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C(F)(F)F)C | C34H32F6N2O3
reactant | NaOH | 2M, 1 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | 2-Methyl-2-{2-methyl-4-[([4-(trifluoromethyl)benzyl]{6-[4-(trifluoromethyl)phenyl]pyridin-2-yl}amino)methyl]phenoxy}propanoic acid | 60 mg | CC(C(=O)O)(C)OC1=C(C=C(C=C1)CN(C1=NC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)C(F)(F)F)C | C32H28F6N2O3
